US08809372B2
To a solution of diisopropylamine (0.12 mL, 0.833 mmol) in dry THF (5 mL) was added n-BuLi in hexanes (1.6M, 0.7 mL, 1.111 mmol) slowly at −78° C. The mixture was stirred for 30 min, 2-(6-fluoropyridin-3-yl)thiazole (0.1 g, 0.555 mmol) in THF (5.0 mL) at −78° C. added, and the mixture stirred for 30 min. A solution of 1-(pyridin-4-yl)ethanone (0.09 mL, 0.833 mmol) in THF (5.0 mL) was added to reaction mixture, stirred for 2 hours at −78° C. The reaction mixture was quenched with saturated NH4Cl (50 mL) solution and extracted with EtOAc (3×50 mL). The organic layer was washed with water (2×50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by preparative TLC (3% methanol in dichloromethane) to obtain 1-(2-(6-fluoropyridin-3-yl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol as off-white solid (0.035 g, 22% yield) in 99.7% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.31 (s, 1H), 8.21 (d, 2H), 7.79 (d, 1H), 7.71 (d, 1H), 7.67 (s, 1H), 7.11 (s, 1H), 6.91 (d 2H), 1.83 (s, 3H); LC-MS m/z calculated for [M+H]+ 302.07, found 302.1.

reactant | diisopropylamine | 0.833 mmol, 0.12 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | 2-(6-fluoropyridin-3-yl)thiazole | 0.555 mmol, 0.1 g | FC1=CC=C(C=N1)C=1SC=CN1 | C8H5FN2S
reactant | 1-(pyridin-4-yl)ethanone | 0.833 mmol, 0.09 mL | N1=CC=C(C=C1)C(C)=O | C7H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-(2-(6-fluoropyridin-3-yl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol | 0.035 g, 22% yield | FC1=CC=C(C=N1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | C15H12FN3OS
